US09145427B2
N,N-Dimethyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2-amine was prepared via reaction of 6-benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine with dimethylamine, followed by hydrogenation to remove the protecting group.

reactant | 6-benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine | C(C1=CC=CC=C1)N1CC=2C=CC(=NC2CC1)Cl | C15H15ClN2
reactant | dimethylamine | CNC | C2H7N
product | N,N-Dimethyl-5,6,7,8-tetrahydro-1,6-naphthyridin-2-amine | CN(C1=NC=2CCNCC2C=C1)C | C10H15N3
